US05196546
1-Benzyl-4,4-dimethyl-3-pyrazolidinone [1.2 g] and dimethylcarbamoyl chloride [0.56 mL] were combined in 4 mL pyridine and 1.5 mL triethylamine. The resulting mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with ethyl acetate (50 mL), washed with saturated ammonium chloride solution (30 mL), dried over MgSO4, and evaporated. Chromatography on silica gel gave 0.6 g (37%) of pure 1-benzyl-4,4-dimethyl-3-(N,N-dimethylcarbamoyloxy)-2-pyrazoline as a light yellow oil. 1H NMR: 7.6-7.2 (5H, m), 3.8-3.4 (4H, m), 3.2 (6H, s), 1.2 (6H, s).

reactant | 1-Benzyl-4,4-dimethyl-3-pyrazolidinone | 1.2 g | C(C1=CC=CC=C1)N1NC(C(C1)(C)C)=O | C12H16N2O
reactant | dimethylcarbamoyl chloride | 0.56 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-4,4-dimethyl-3-(N,N-dimethylcarbamoyloxy)-2-pyrazoline | 0.6 g, 37% | C(C1=CC=CC=C1)N1N=C(C(C1)(C)C)OC(N(C)C)=O | C15H21N3O2
